US06294558B1
1-[4-(methylsulfonyl)phenyl]-3-methylpentane-1,4-dione
To a stirred solution of 4-(methylsulfonyl)benzaldehyde (1.84 g, 10 mmol) in ethanol (8 mL) was added 3-methyl-3-buten-2-one (0.8 g, 9.5 mmol), 3-benzyl-5-(2-hydroxyethyl)-4-methylthiazolium chloride (0.51 g, 1.9 mmol), and Et3N (2.65 mL, 19 mmol) at room temperature. After stirring for 3 hours, volatiles were removed by evaporation. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/2) to provide the subtitle compound (0.11 g).

reactant | 4-(methylsulfonyl)benzaldehyde | 10 mmol, 1.84 g | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | 3-methyl-3-buten-2-one | 9.5 mmol, 0.8 g | CC(C(C)=O)=C | C5H8O
reactant | Et3N | 19 mmol, 2.65 mL | CCN(CC)CC | C6H15N
solvent | ethanol | 8 mL | C(C)O | C2H6O
catalyst | 3-benzyl-5-(2-hydroxyethyl)-4-methylthiazolium chloride | 1.9 mmol, 0.51 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
product | 1-[4-(methylsulfonyl)phenyl]-3-methylpentane-1,4-dione | 0.11 g | CS(=O)(=O)C1=CC=C(C=C1)C(CC(C(C)=O)C)=O | C13H16O4S
